US05378803
Condensation of Boc-trp-OH (1.81 g.) and H-Leu-MePhe-NH2 and H-Leu-Mephe-NH2 (mixture of isomers) hydrochloride salt (1.95 g.) by the mixed anhydride method using isobutyl chloroformate (813 mg.) and N-methylmorpholine (two 685 mg. portions) in tetrahydrofuran (35 ml.) at -20° C. for 20 min. and then at room temperature briefly, isolation by ethyl acetate extraction, and purification by filtration through silica gel with ethyl acetate gave Boc-trp-Leu-MePhe-NH2 and Boc-trp-Leu-Mephe-NH2 (mixture of isomers) as white foam (2.70 g., 78% yield).

reactant | Boc-trp-OH | 1.81 g | CC(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C21)C(=O)O | C16H20N2O4
reactant | H-Leu-MePhe-NH2 | N[C@@H](CC(C)C)C(=O)N([C@@H](CC1=CC=CC=C1)C(=O)N)C | C16H25N3O2
reactant | isobutyl chloroformate | 813 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 685 mg | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | Boc-trp Leu-MePhe-NH2 | 78% yield | CC(C)(C)OC(=O)N[C@@H](CC1=CC=2C=CC=CC2N1)C(=O)O.N[C@@H](CC(C)C)C(=O)N([C@@H](CC1=CC=CC=C1)C(=O)N)C | InChI=1S/C16H25N3O2.C16H20N2O4/c1-11(2)9-13(17)16(21)19(3)14(15(18)20)10-12-7-5-4-6-8-12;1-16(2,3)22-15(21)18-13(14(19)20)9-11-8-10-6-4-5-7-12(10)17-11/h4-8,11,13-14H,9-10,17H2,1-3H3,(H2,18,20);4-8,13,17H,9H2,1-3H3,(H,18,21)(H,19,20)/t13-,14-;13-/m00/s1
